US06022884
Step B: 2-(N-Cyclohexyl-N-methylamino)-5-nitro-pyridine
Sodium hydride (60% dispersion in mineral oil, 0.38 g, 9.48 mmol) was washed 3× with hexanes then a solution of 2-cyclohexylamino-5-nitropyridine (1.88 g, 8.5 mmol) dissolved in dimethylformamide (20 mL) was added. After stirring for 30 minutes at 22° C., the reaction mixture was cooled to 0° C. and methyl iodide (0.55 mL, 8.9 mmol) was added. The solution was stirred for 1.5 hours at 0° C. followed by quenching with saturated aqueous NH4Cl. The reaction mixture was diluted with ethyl acetate and extracted 5× with water (200 mL), saturated NaCl, dried over Na2SO4 and concentrated in vacuo oil was chromatographed on SiO2 using 2:1 hexanes/ethyl acetate as eluent.

reactant | Sodium hydride | 9.48 mmol, 0.38 g | [H-].[Na+]
reactant | 2-cyclohexylamino-5-nitropyridine | 8.5 mmol, 1.88 g | C1(CCCCC1)NC1=NC=C(C=C1)[N+](=O)[O-] | C11H15N3O2
reactant | methyl iodide | 8.9 mmol, 0.55 mL | CI | CH3I
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(N-Cyclohexyl-N-methylamino)-5-nitro-pyridine | C1(CCCCC1)N(C)C1=NC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
